US04791124
In a manner similar to Example 1, the reaction of N-[2-(5-methylthienyl)-2-oxoethyl]-3,5-bis(trifluoromethyl)benzamide (4.0 g, 0.01 mole) in toluene (100 ml) with a suspension of Lawesson's Reagent (2.0 g, 0.005 mole) in toluene (100 ml) yielded 1.0 g of 5-(5-methylthien-2-yl)-2-[3,5-bis(trifluoromethyl)phenyl]thiazole as a solid, m.p. 119.5°-121° C.

reactant | N-[2-(5-methylthienyl)-2-oxoethyl]-3,5-bis(trifluoromethyl)benzamide | 0.01 mole, 4.0 g | CC1=CC=C(S1)C(CNC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)=O | C16H11F6NO2S
reactant | Lawesson's Reagent | 0.005 mole, 2.0 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(5-methylthien-2-yl)-2-[3,5-bis(trifluoromethyl)phenyl]thiazole | 1.0 g | CC1=CC=C(S1)C1=CN=C(S1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C16H9F6NS2
